### PR TITLE
Jason's proof for the well-scopedness lemma

### PR DESCRIPTION
**Pull request by HuStmpHrrr**
Please check my proof and see how I reduced the size of the proof.

### CODE REVIEW

File: theories/Elaborator.v [hunk 1]
```diff
@@ -1,25 +1,21 @@
 Require Export String.
 Require Export List.
 Require Export Coq.Structures.OrderedTypeEx.
-Require Export MSets MSetInterface MSetFacts MSetProperties.
-Require Export Coq.Lists.SetoidList.
+Require Export MSets.
 Require Export Arith.
+Require Export Lia.
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:6]: `Lia` stands for `Linear arithmetic` which is an automated solver for problems expressible in Presburger arithmetic.

File: theories/Elaborator.v [hunk 2]
```diff
@@ -74,38 +70,34 @@ Fixpoint cst_variables (cst : cst_term) : StrSet.t :=
...
 
-Inductive closed_at : ast_term -> nat -> Prop :=
+Inductive closed_at : exp -> nat -> Prop :=
  | ca_var : forall x n, x < n -> closed_at (a_var x) n
  | ca_lam : forall t b n, closed_at t n -> closed_at b (1+n) -> closed_at (a_fn t b) n
  | ca_pi : forall t b n, closed_at t n -> closed_at b (1+n) -> closed_at (a_pi t b) n
- | ca_app : forall a1 a2 n m, closed_at a1 n -> closed_at a2 m -> 
-            closed_at (a_app a1 a2) (max n m)
+ | ca_app : forall a1 a2 n, closed_at a1 n -> closed_at a2 n ->
+            closed_at (a_app a1 a2) n
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:78]: there is no need for `max` here, because we can show that `n` in `closed_at t n` respects the `<=` relation.

File: theories/Elaborator.v [hunk 3]
```diff
@@ -74,38 +70,34 @@ Fixpoint cst_variables (cst : cst_term) : StrSet.t :=
...
  | ca_nat : forall n, closed_at (a_nat) n
  | ca_zero : forall n, closed_at (a_zero) n
  | ca_type : forall n m, closed_at (a_typ m) n
  | ca_succ : forall a n, closed_at a n -> closed_at (a_succ a) n 
 .
+(* TODO: JH: create our own hint database. *)
+#[local]
+Hint Constructors closed_at: core.
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:86]: Here I add local hints so that `auto` and `eauto` can solve `closed_at` goals automatically.

File: theories/Elaborator.v [hunk 4]
```diff
@@ -74,38 +70,34 @@ Fixpoint cst_variables (cst : cst_term) : StrSet.t :=
...
 
 (*Lemma for the well_scoped proof, lookup succeeds if var is in context*)
-Lemma lookup_known (s : string) (ctx : list string) (H_in : List.In s ctx) : exists n : nat, (lookup s ctx = Some n).
+Lemma lookup_known (s : string) (ctx : list string) (H_in : List.In s ctx) : exists n : nat, (lookup s ctx = Some n /\ n < length ctx).
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:89]: we can have the lemma to return one more conjunction to reduce the size of the proof in the well-scopedness lemma.

File: theories/Elaborator.v [hunk 5]
```diff
@@ -74,38 +70,34 @@ Fixpoint cst_variables (cst : cst_term) : StrSet.t :=
...
-      * contradiction n. 
-      * exact H.
-    } 
-    destruct (IHctx H).
-    rewrite H0.
-    eauto.    
+  induction ctx as [| c ctx' IHctx]; simpl in *.
+  - contradiction.
+  - destruct (string_dec c s); subst.
+    + eexists; split; auto. lia.
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:94]: see how I use `lia` to discharge a goal of `<`.

File: theories/Elaborator.v [hunk 6]
```diff
@@ -136,192 +128,57 @@ Lemma lookup_bound s : forall ctx m, lookup s ctx = Some m -> m < (length ctx).
         --discriminate H.
 Qed.
 
+Import StrSProp.Dec.
+
+Lemma Subset_to_In : forall xs x, StrSet.singleton x [<=] StrSProp.of_list xs -> In x xs.
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:133]: Usually a separate lemma is preferable; this one is probably generally useful enough.

File: theories/Elaborator.v [hunk 7]
```diff
@@ -136,192 +128,57 @@ Lemma lookup_bound s : forall ctx m, lookup s ctx = Some m -> m < (length ctx).
...
+Proof.
+  intro xs; induction xs; simpl; intros.
+  - rewrite <- F.empty_iff.
+    apply (H x).
+    fsetdec.
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:138]: `fsetdec` is a solver tactic that solves goals related to set, introduced by the `Import` above. read the code in stdlib to reduce your time on solving tedious goals.

File: theories/Elaborator.v [hunk 8]
```diff
@@ -136,192 +128,57 @@ Lemma lookup_bound s : forall ctx m, lookup s ctx = Some m -> m < (length ctx).
...
-      apply StrSet.singleton_spec.
-      reflexivity.
-    }
-    destruct (lookup_known s ctx H0).
-    rewrite H1.
-    exists (a_var x).
-    split.
-    + reflexivity.
-    + exact (ca_var x (length ctx) (lookup_bound s ctx x H1)).
+  induction cst; intros; simpl in *; eauto.
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:152]: here I used `eatuo` to discharge some goals already.

File: theories/Elaborator.v [hunk 9]
```diff
@@ -136,192 +128,57 @@ Lemma lookup_bound s : forall ctx m, lookup s ctx = Some m -> m < (length ctx).
...
+  - destruct (IHcst _ H) as [ast [-> ?]]; eauto.
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:153]: see how I use `->` in a destruction pattern do a rewrite.

File: theories/Elaborator.v [hunk 10]
```diff
@@ -136,192 +128,57 @@ Lemma lookup_bound s : forall ctx m, lookup s ctx = Some m -> m < (length ctx).
...
+  - assert (cst_variables cst1 [<=] StrSProp.of_list ctx) by fsetdec.
```
Comment (HuStmpHrrr) [inline theories/Elaborator.v:154]: `fsetdec` discharges many proofs automatically.

**Comment by HuStmpHrrr** [comment]
@IanGrenville could you review this PR and approve it?

**Review by IanGrenville — APPROVED** [review]
I think I understand how all the improvements work here
